simulator lang=spectre
global 0

ahdl_include "gray_counter_one_bit_change_ref.va"

// Power supplies
Vdd (vdd 0) vsource dc=1.8
Vss (vss 0) vsource dc=0

// Reset signal: active high, released early
Vrst (rst 0) vsource type=pwl wave=[0 1.8 10n 1.8 20n 0 220n 0]

// Clock: 10ns period (100MHz), starts after reset release
Vclk (clk 0) vsource type=pulse val0=0 val1=1.8 period=10n rise=100p fall=100p width=4.9n delay=30n

// DUT instantiation
XDUT (vdd vss clk rst g0 g1 g2 g3) gray_counter_one_bit_change_ref

// Transient analysis
tran tran stop=220n maxstep=100p errpreset=conservative

// Save signals for checker evaluation
save clk
save rst
save g0
save g1
save g2
save g3
